US07375128B2
(5S,7S)-5-(4-Cyanobenzyl)-3-(3,5-dichlorophenyl)-7-acetylamino-1,3-diazabicyclo[3.3.0]octane-2,4-dione
To a solution of (5S,7S)-5-(4-cyanobenzyl)-3-(3,5-dichlorophenyl)-7-amino-1,3-diazabicyclo[3.3.0]octane-2,4-dione (78.5 mg) in THF (5 mL) was added acetic anhydride (1.0 mL). The reaction mixture was stirred for 2 hours at 45° C., and the mixture was concentrated and purified by preparative thin-layer chromatography (silica gel; CH2Cl2) to afford the titled compound (84 mg). MS (m/z) 478.8 (MNa+).

reactant | (5S,7S)-5-(4-cyanobenzyl)-3-(3,5-dichlorophenyl)-7-amino-1,3-diazabicyclo[3.3.0]octane-2,4-dione | 78.5 mg | C(#N)C1=CC=C(C[C@@]23C(N(C(N3C[C@H](C2)N)=O)C2=CC(=CC(=C2)Cl)Cl)=O)C=C1 | C20H16Cl2N4O2
reactant | acetic anhydride | 1.0 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (5S,7S)-5-(4-Cyanobenzyl)-3-(3,5-dichlorophenyl)-7-acetylamino-1,3-diazabicyclo[3.3.0]octane-2,4-dione | 84 mg | C(#N)C1=CC=C(C[C@@]23C(N(C(N3C[C@H](C2)NC(C)=O)=O)C2=CC(=CC(=C2)Cl)Cl)=O)C=C1 | C22H18Cl2N4O3
